* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=7.15337432695e-10
.param C2=2.95753578734e-11
.param Csh=7.02727072654e-11
.param L1=4.99115233142e-07
.param Vsrc_amp=302.298041724
.param ne=3.62430562814e+14
.param nu_m=81929735.3923

* Sources
Vsrc src 0 SIN(0 302.298041724 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 25.024254597
Lbulk nb ns 3.0543555984e-07
Csh ns n 7.02727072654e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
